US07829586B2
1) 1-(3,5-Difluorophenyl)-3-ethoxycarbonyl-2-ethyl-5-methyl-1H-pyrrole
Ethyl 3-oxo-2-(2-oxopropyl)pentanoate (200 mg) and 3,5-difluoroaniline (380 mg) were dissolved in acetic acid (10 mL), and stirred at 80° C. for 2.5 hours. The reaction liquid was cooled to room temperature, then the solvent was evaporated off, the residue was diluted with chloroform, and washed with aqueous saturated sodium hydrogencarbonate solution. The extract was washed with saturated saline water, then dried with anhydrous sodium sulfate, then the solvent was evaporated off, and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to obtain the entitled compound (287 mg) as a pale yellow oil.

reactant | Ethyl 3-oxo-2-(2-oxopropyl)pentanoate | 200 mg | O=C(C(C(=O)OCC)CC(C)=O)CC | C10H16O4
reactant | 3,5-difluoroaniline | 380 mg | FC=1C=C(N)C=C(C1)F | C6H5F2N
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 1-(3,5-Difluorophenyl)-3-ethoxycarbonyl-2-ethyl-5-methyl-1H-pyrrole | 287 mg | FC=1C=C(C=C(C1)F)N1C(=C(C=C1C)C(=O)OCC)CC | C16H17F2NO2
